Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / lisinopril / amlodipine
 
Attending: ___
 
Chief Complaint:
Chest Pressure
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mrs. ___ is a ___ year old woman with a history of HTN and aortic 
stenosis, who presented with acute-onset, substernal chest 
pressure over the past three days.  She states that for the past 
few months, she has had shortness of breath when walking or 
exerting herself, which usually improves when she rests. She has 
not had orthopnea or PND. Over the past week, she has felt 
increasingly tired, to the point where she feels that she puts 
off home tasks more and more frequently. On ___, she first 
noted non-radiating "chest heaviness" when cleaning her home, 
and it has appeared intermittently since. She says it does not 
change when she takes a deep breath, and she has not experienced 
sweating or nausea. She says it normally comes when she does 
household tasks.  She has not had fevers, chills, or night 
sweats.

On ___, she said the pressure came when she was 
preparing for church. She subsequently decided to visit her 
daughter and rest, at which point she said the pain subsided. 
She said the pressure came again that evening when she went to 
her kitchen to prepare dinner. She then called her son to bring 
her to the emergency room. She denies any prior MI and states 
that this chest pressure is new. On interview, she does not 
endorse chest pressure. 
 
Past Medical History:
 Aortic stenosis (mild-moderate) 
 Cervical Stenosis 
 Chronic Kidney Disease  
 Hypertension  
 Hyperlipidemia  
 History of Total Knee Replacement  
 History of Deep Vein Thrombosis (associated with knee 
replacement)  
 History of Pulmonary Embolism ___ at ___, s/p warfarin) 
 
Social History:
___
Family History:
Father: Passed in his ___ due to large myocardial infarction.
Mother: Passed at age ___ due to "natural causes". 
Son: CABG in his ___

No other known family history of heart disease or cancer.
 
Physical Exam:
===========================
ADMISSION PHYSICAL EXAM
===========================
Vital Signs: T 97.5 BP 201/71 then L 176/78 R 178/74 on repeat 
HR 81 RR 18 O2 96RA  
 General: Alert, no acute distress  
 HEENT: Sclerae anicteric, MMM, oropharynx clear, PERRL. Teeth 
implants in place  
 Neck: Supple. JVP not elevated. no LAD  
 CV: Regular rate and rhythm. IV/VI crescendo systolic murmur 
heard best at upper sternal borders, radiating to carotids 
bilaterally.  III/VI apical holosystolic murmur 
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no rebound or guarding  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema.  
 Neuro: CNII-XII intact, ___ strength upper/lower extremities 
with exception of left upper extremity 4+/5, grossly normal 
sensation 

===========================
DISCHARGE PHYSICAL EXAM
===========================
Vitals: T 98.0, BP 131/69, HR 69, RR 18, O2Sat 95 on room air
General: Pleasant, well-appearing, and in no acute distress
HEENT: Normocephalic, atraumatic with clear oropharynx 
Neck: Supple without jugular venous distention
Lungs: Clear to auscultation and resonant to percussion 
bilaterally 
CV: Regular rate and rhythm with unchanged ___ systolic 
crescendo murmur heard best at the apex and radiating to 
carotids bilaterally.  Unchanged ___ holosystolic apical murmur. 
No chest pain to palpation.  
Abdomen: No external scars or lesions. Soft, nontender, and 
nondistended. No rebound or guarding.
Ext: Warm and well-perfused with palpable pulses and no 
peripheral edema bilaterally.
Neuro: Awake, alert, and pleasantly engaging in conversation.  
Oriented to self, place, and time. Moving all four extremities 
spontaneously and purposefully. Slow, but steady gait with 
appropriate foot width. Turning appropriately with no loss of 
balance when walking. 
 
Pertinent Results:
==================
ADMISSION LABS
==================

___ 10:47PM   GLUCOSE-108* UREA N-47* CREAT-1.7* SODIUM-141 
POTASSIUM-4.6 CHLORIDE-103 TOTAL CO2-24 ANION GAP-19
___ 10:47PM   estGFR-Using this
___ 10:47PM   CK(CPK)-181
___ 10:47PM   cTropnT-<0.01
___ 10:47PM   CK-MB-3
___ 10:47PM   CALCIUM-9.4 PHOSPHATE-3.9 MAGNESIUM-2.2
___ 10:47PM   WBC-8.3 RBC-3.87* HGB-11.4 HCT-34.6 MCV-89 
MCH-29.5 MCHC-32.9 RDW-13.8 RDWSD-44.9
___ 10:47PM   NEUTS-58.0 ___ MONOS-7.5 EOS-7.0 
BASOS-1.1* IM ___ AbsNeut-4.78 AbsLymp-2.16 AbsMono-0.62 
AbsEos-0.58* AbsBaso-0.09*
___ 10:47PM   PLT COUNT-205
___ 10:47PM   ___ PTT-29.0 ___

==================
DISCHARGE LABS
==================
___ 06:43AM BLOOD WBC-6.8 RBC-3.56* Hgb-10.5* Hct-32.5* 
MCV-91 MCH-29.5 MCHC-32.3 RDW-13.6 RDWSD-45.8 Plt ___
___ 06:43AM BLOOD Plt ___
___ 06:43AM BLOOD Glucose-106* UreaN-42* Creat-1.3* Na-137 
K-3.9 Cl-104 HCO3-24 AnGap-13
___ 06:43AM BLOOD Calcium-8.8 Phos-3.9 Mg-2.0

===========
IMAGING
===========
___ Cardiovascular ECHO 
Conclusions   
 The left atrium is normal in size. No atrial septal defect is 
seen by 2D or color Doppler. The estimated right atrial pressure 
is ___ mmHg. Left ventricular wall thicknesses are normal. The 
left ventricular cavity is unusually small. Tissue Doppler 
imaging suggests an increased left ventricular filling pressure 
(PCWP>18mmHg). There is no ventricular septal defect. Right 
ventricular chamber size and free wall motion are normal. The 
right ventricular free wall is hypertrophied. The number of 
aortic valve leaflets cannot be determined. The aortic valve 
leaflets are moderately thickened. There is moderate aortic 
valve stenosis (valve area 0.9-1.0cm2, indexed eAVA 0.67cm2/m2). 
Trace aortic regurgitation is seen. The mitral valve leaflets 
are mildly thickened. There is no mitral valve prolapse. Mild 
(1+) mitral regurgitation is seen. [Due to acoustic shadowing, 
the severity of mitral regurgitation may be significantly 
UNDERestimated.] There is mild pulmonary artery systolic 
hypertension. There is no pericardial effusion. 

 IMPRESSION: Moderate aortic stenosis. Normal biventricular 
systolic function.

 Compared with the prior study (images reviewed) of ___ 
the findings are not significantly changed.   

CHEST PORTABLE AP (___)
Impression: The right hemidiaphragm is elevated as before.  
Biapical pleural thickening is stable.  The lungs are clear.  
There is no pneumothorax or pleural effusion.  Cardiac size is 
top-normal 

 
Brief Hospital Course:
 Mrs. ___ is a ___ year old female with history of aortic 
stenosis, HTN, HLD, DVT/PE who presented with four days of chest 
tightness. 

 # Chest tightness.
Admitted due to chest tightness and dyspnea thought to be 
cardiac in origin. She had two negative troponins and a chest x 
ray that did not suggest an acute intrathoracic process.  She 
had an echocardiogram to evaluate valvular function, which 
showed minimal progression of her aortic stenosis. She was 
monitored on telemetry and continued on her home aspirin and 
amlodipine, but her losartan was held on admission given her 
acute kidney injury noted on presentation. It was restarted on 
___ after her creatinine returned to baseline.

 # Aortic stenosis.
Presented with dyspnea, occasional lightheadedness, and chest 
tightness with known moderate aortic stenosis. She was monitored 
on telemetry and had a transthoracic echocardiogram which showed 
minimal worsening of valve area, peak gradient, and peak flow 
with normal biventricular systolic function. 

 # Acute Kidney Injury on CKD.
She was found to have a creatinine of 1.7 on presentation from 
recent baseline of 1.2 in ___.  Her losartan was held 
and nephrotoxins were avoided in the setting of suspected kidney 
injury. She was started on gentle hydration with normal saline 
overnight, and on the following day, her creatinine lowered to 
1.3. On hospital day three, creatinine had returned to baseline 
1.2 and home losartan was restarted.    

# Hypertension.  
She was continued on her home amlodipine but home losartan was 
held in the setting of kidney injury, and restarted upon 
resolution of her ___. 

 # Constipation.  
She was continued on her home miralax.  

TRANSITIONAL ISSUES:
=====================
-Prior TTE ___ pV 2.8, pG 33, ___ 1.0. 
___ TTE: pV *3.1, pG *28, ___ *0.9 
-___ noted on admission, given IVF with improvement. Please 
repeat labs at follow up
-please continue workup of chest pressure symptoms as an 
outpatient, please consider outpatient stress testing, however 
please be mindful of patient's aortic stenosis with this study
-PCP please recheck labs and creatinine at follow up
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO DAILY 
2. Losartan Potassium 100 mg PO DAILY 
3. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
4. Aspirin 81 mg PO DAILY 
5. Multivitamins 1 TAB PO DAILY 
6. Triamcinolone Acetonide 0.1% Cream 1 Appl TP BID 
7. Ocuvite (vit C-vit E-lutein-min-om-3) 150-30-5-150 
mg-unit-mg-mg oral DAILY 
8. travoprost 0.004 % ophthalmic QPM 
9. TheraTears (carboxymethylcellulose sodium) 0.25 % ophthalmic 
TID:PRN Dry eyes 

 
Discharge Medications:
1. amLODIPine 5 mg PO DAILY 
2. Losartan Potassium 100 mg PO DAILY 
3. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
4. Aspirin 81 mg PO DAILY 
5. Multivitamins 1 TAB PO DAILY 
6. Triamcinolone Acetonide 0.1% Cream 1 Appl TP BID 
7. Ocuvite (vit C-vit E-lutein-min-om-3) 150-30-5-150 
mg-unit-mg-mg oral DAILY 
8. travoprost 0.004 % ophthalmic QPM 
9. TheraTears (carboxymethylcellulose sodium) 0.25 % ophthalmic 
TID:PRN Dry eyes 
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Chest pressure/Atypical chest pain
Aortic Stenosis
Hypertension
Acute Kidney Injury

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

___ was a pleasure taking care of you.  You were admitted with 
chest tightness and shortness of breath.  You had blood tests 
performed that suggested some dehydration, but no elevation of 
your cardiac enzymes. You were given IV fluids with improvement 
in your dehydration.  You also had an echocardiogram to evaluate 
the valves in your heart.  The echocardiogram did not show a 
significant change in your heart valves when compared to the 
echocardiogram you had in ___. Please follow up with Dr. ___ 
___, your primary care physician, regarding further evaluation 
of your chest discomfort. 

We wish you the best in your health,
Your ___ Care Team
 
Followup Instructions:
___